US06399643B1
b) 4-(3-(2-Methylphenyl)ureido)benzyl chloride
5.66 ml (78.12 mmol) of thionyl chloride were added dropwise with ice cooling to a suspension of 10 g (39.06 mmol) of 4-(3-(2-methylphenyl)ureido)benzyl alcohol in 150 ml of dichloromethane. The reaction mixture was subsequently stirred at room temperature for 1.5 hours and poured onto 200 ml of n-heptane. The heptane was decanted off from the deposited oil and the oil was stirred with diisopropyl ether. The solid obtained was filtered off and washed with diisopropyl ether. Yield: 8.32 g (78%).

reactant | thionyl chloride | 78.12 mmol, 5.66 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(3-(2-methylphenyl)ureido)benzyl alcohol | 39.06 mmol, 10 g | CC1=C(C=CC=C1)NC(NC1=CC=C(CO)C=C1)=O | C15H16N2O2
reactant | n-heptane | 200 ml | CCCCCCC | C7H16
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-(3-(2-Methylphenyl)ureido)benzyl chloride | CC1=C(C=CC=C1)NC(NC1=CC=C(CCl)C=C1)=O | C15H15ClN2O
